US05681954
5,6-Dimethoxy-3-hydroxyethyl-1,3-dihydro-2(2H)-indolone
An ethyl acetate solution containing 2.0 g of α-(2-nitro-4,5-dimethoxyphenyl)-butyrolactone and 500 mg of platinum oxide was stirred in a 2.0 atm. hydrogen gas atmosphere. Ethanol was added to the reaction mixture, followed by filtration. The solvent was evaporated to yield 1.76 g of the title compound.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | α-(2-nitro-4,5-dimethoxyphenyl)-butyrolactone | 2.0 g | [N+](=O)([O-])C1=C(C=C(C(=C1)OC)OC)C1C(=O)OCC1 | C12H13NO6
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 500 mg | [Pt]=O
solvent | Ethanol | C(C)O | C2H6O
product | 5,6-Dimethoxy-3-hydroxyethyl-1,3-dihydro-2(2H)-indolone | 1.76 g | COC=1C=C2C(C(NC2=CC1OC)=O)CCO | C12H15NO4
